US08034949B2
To a solution of 4-hydroxybenzaldehyde (1.22 g) in pyridine (5 mL) was added dimethylcarbamyl chloride (1.0 mL) and the mixture was stirred at 60° C. overnight. Thereto was added diluted HCl and ethyl acetate and stirred. The organic layer was extracted by diatomaceous earth column. The organic layer was concentrated and the resultant crude product was purified by a column chromatography on silica gel (solvent; hexane/ethyl acetate=80:20→60:40) to give 4-formylphenyl dimethylcarbamate (1.67 g, yield: 86%).

reactant | 4-hydroxybenzaldehyde | 1.22 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | dimethylcarbamyl chloride | 1.0 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | HCl | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-formylphenyl dimethylcarbamate | 1.67 g, yield: 86% | CN(C(OC1=CC=C(C=C1)C=O)=O)C | C10H11NO3
